US05750542
EXAMPLE 35 a) 6-Acetyl-1,3-dihydro-5-hydroxy-2H-indol-2-one
The procedure described in Example 33a was followed with 1,3-dihydro-5-methoxy-2H-indol-2-one (4.4 g, 26.96 mmol), acetyl chloride (4.8 mL, 67.41 mmol), and AlCl3 (14.4 g, 107.8 mmol) in 1,2-dichloroethane (210 mL) for 6 hours. After aqueous work-up and overnight stirring, a precipitate was obtained. This yellow solid was collected by filtration and dried to give the title compound (2.7 g, 52%).

reactant | 1,3-dihydro-5-methoxy-2H-indol-2-one | 26.96 mmol, 4.4 g | COC=1C=C2CC(NC2=CC1)=O | C9H9NO2
reactant | acetyl chloride | 67.41 mmol, 4.8 mL | C(C)(=O)Cl | C2H3ClO
reactant | AlCl3 | 107.8 mmol, 14.4 g | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | 1,2-dichloroethane | 210 mL | ClCCCl | C2H4Cl2
product | 6-Acetyl-1,3-dihydro-5-hydroxy-2H-indol-2-one | 2.7 g, 52% | C(C)(=O)C1=C(C=C2CC(NC2=C1)=O)O | C10H9NO3
